US03979381
2,3,3a,4,6,7-Hexahydro-3-(4-methoxyphenyl)-7-[(4-methoxyphenyl)methylene]-2-propylthiopyrano[4,3-c]pyrazole
A mixture of 6.0g of tetrahydro-3,5-bis-[(4-methoxyphenyl)methylene]-4H-thiopyran-4-one and 1.3g of n-propyl hydrazine in 200 ml of methanol is heated at reflux temperature for 3.5 hours, and then allowed to cool to room temperature. The resultant crystals are collected by filtration and chromatographed on a dry packed neutral alumina column (Activity I). The fractions eluted with 10-20% ethyl acetate/hexane are combined and recrystallized from acetone/hexane to give 2.4g of the title compound, melting point 149.5°-151.5°C.

reactant | tetrahydro-3,5-bis-[(4-methoxyphenyl)methylene]-4H-thiopyran-4-one | 6.0g | COC1=CC=C(C=C1)C=C1CSCC(C1=O)=CC1=CC=C(C=C1)OC | C21H20O3S
reactant | n-propyl hydrazine | 1.3g | C(CC)NN | C3H10N2
solvent | methanol | 200 ml | CO | CH4O
product | 2,3,3a,4,6,7-Hexahydro-3-(4-methoxyphenyl)-7-[(4-methoxyphenyl)methylene]-2-propylthiopyrano[4,3-c]pyrazole | 2.4g | COC1=CC=C(C=C1)C1C2C(=NN1CCC)C(CSC2)=CC2=CC=C(C=C2)OC | C24H28N2O2S
